US07645771B2
Preparation of 4-chloro-2-fluoro-5-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]-N-propylbenzenesulfonamide
0.366 g (0.82 mmol) 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole and 0.363 g (1.23 mmol) 2-chloro-4-fluoro-5-[(propylamino)sulfonyl]benzoic acid were combined following the HATU general procedure in Example 5. This compound was purified by flash chromatography on a 0-100% gradient of 90:5:5 acetonitrile: ammonium hydroxide: water in acetonitrile. 0.24 g obtained (40% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.04-8.15 (br, 1H), 7.69-7.90 (m, 2H), 7.32-7.52 (m, 3H), 7.19-7.26 (m, 2H), 7.01-7.15 (m, 3H), 4.41-4.56 (m, 1H), 3.86-3.98 (m, 1H), 3.19-3.43 (m, 6H), 2.97-3.08 (m, 1H), 2.77-2.88 (m, 2H), 2.44 (s, 3H), 2.28-2.41 (m, 2H), 1.96-2.17 (m, 2H), 1.71-1.92 (m, 9H), 1.56-1.64 (m, 2H), 1.31-1.42 (m, 2H), 0.73-0.81 (m, 3H).

reactant | 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.82 mmol, 0.366 g | FC=1C=C(C=CC1)C1CCN(CC1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C28H35FN4
reactant | 2-chloro-4-fluoro-5-[(propylamino)sulfonyl]benzoic acid | 1.23 mmol, 0.363 g | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCCC | C10H11ClFNO4S
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 4-chloro-2-fluoro-5-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)carbonyl]-N-propylbenzenesulfonamide | 40% yield | ClC1=CC(=C(C=C1C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)S(=O)(=O)NCCC)F | C38H44ClF2N5O3S
